US06248885B1
tert-Butyl-bis(2-methoxyethyl)amine (1d)
Dimethyl sulfate (50.45 g, 0.4 mol) was added dropwise to a vigorously stirred mixture of N-tert-butyldiethanolamine (16.13 g, 0.1 mol), dichloromethane (100 ml) tetrabutylammonium bromide (3.22 g, 10 mmol) and 50% aqueous sodium hydroxide (80 g, 1 mol at 30-40° C. The stirring was continued for 1 h after the addition was completed. The organic solution was separated and the aqueous layer was extracted with dichltromethane (25 ml). The organic solutions were combined. GC analysis showed a mixture of mono- and diethylated product. The methylation was repeated using the same amounts of reagents as described above. The dichloromethane solution after the second workup was stirred with concentrated aqueous ammonia (50 ml) for 1 h at room temperature, separated, dried over anhydrous magnesium sulfate and the product was isolated by distillation to yield 17.00 g, (90%), bp 42-44° C./0.1 mm/Hg; 1H NMR (CDCl3) δ1.60 (s, 9H, CH3), 2.70 (t, J=6.0 Hz, 4H, CH2), 3.35 (s, 6H, CH3), 3.37 (t, J=6.0 Hz, 4H, CH2)

reactant | Dimethyl sulfate | 0.4 mol, 50.45 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | N-tert-butyldiethanolamine | 0.1 mol, 16.13 g | C(C)(C)(C)N(CCO)CCO | C8H19NO2
reactant | dichloromethane | 10 mmol, 100 ml, 3.22 g | ClCCl | CH2Cl2
reactant | sodium hydroxide | [OH-].[Na+]
product | tert-Butyl-bis(2-methoxyethyl)amine | C(C)(C)(C)N(CCOC)CCOC | C10H23NO2
